US07906517B2
4-Benzyloxy-5′-isopropyl-2′-methoxy-biphenyl-2-carbaldehyde (1.16 g) is dissolved in ethanol (15 ml) and thereto is added sodium borohydride (122 mg) and the mixture is stirred at room temperature for 10 minutes. Thereto are added a saturated aqueous ammonium chloride solution and ethyl acetate, and the mixture is separated, and the organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure to give (4-benzyloxy-5′-isopropyl-2′-methoxy-biphenyl-2-yl)-methanol (1.26 g). MS (m/z): 345

reactant | 4-Benzyloxy-5′-isopropyl-2′-methoxy-biphenyl-2-carbaldehyde | 1.16 g | C(C1=CC=CC=C1)OC=1C=C(C(=CC1)C1=C(C=CC(=C1)C(C)C)OC)C=O | C24H24O3
reactant | sodium borohydride | 122 mg | [BH4-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | (4-benzyloxy-5′-isopropyl-2′-methoxy-biphenyl-2-yl)-methanol | 1.26 g | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)C1=C(C=CC(=C1)C(C)C)OC)CO | C24H26O3
